US07947728B1
To 6-formyl-indole-1-carboxylic acid tert-butyl ester (1.2 g) in methanol (5 mL) in an ice bath was added sodium borohydride (0.27 mg) portion wise. The reaction was allowed to warm to room temperature over 1.5 hr. The reaction diluted with ethyl acetate (200 mL) washed with water (200 mL), brine (100 mL), dried over sodium sulfate, concentrated, adsorbed onto silica gel and purified by flash chromatography with a gradient from 5-40% ethyl acetate in hexanes to yield 6-hydroxymethyl-indole-1-carboxylic acid tert-butyl ester as a clear viscous oil (0.91 g, 78%) LC-MS (ES) calculated for C14H17NO3, 247.1; found m/z 246 [M−H]−.

reactant | 6-formyl-indole-1-carboxylic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C=O | C14H15NO3
reactant | sodium borohydride | 0.27 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 6-hydroxymethyl-indole-1-carboxylic acid tert-butyl ester | 0.91 g, 78% | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)CO | C14H17NO3
